US06759420B1
d) 4-({2-[2-(3-Bromo-phenyl)-3-(4-cyano-phenyl)-propionylamino]-2-(S)-cyclohexyl-acetylamino}-methyl)piperidine-1-carboxylic acid tert-butyl ester
At 4° C., TOTU (1.59 g, 4.84 mmol) was added to a solution of 2-(3-bromo-phenyl)-3-(4-cyano-phenyl)-propionic acid (1.6 g, 4.84 mmol), 4-[(2-(S)-amino-2-cyclohexyl-acetylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester acetic acid salt (2.0 g, 4.84 mmol), and N-ethylmorpholine (1.2 ml, 9.68 mmol) in dimethylformamide (80 ml). The mixture was stirred at 22° C. for 15 hours, then evaporated in vacuo and stirred with sodium bicarbonate solution. The resulting precipitate was sucked off, washed with water, and dried in vacuo at 40° C. to give the desired product, which was used without further purification. MS m/z 665.2 (M+H+).

reactant | TOTU | 4.84 mmol, 1.59 g | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | 2-(3-bromo-phenyl)-3-(4-cyano-phenyl)-propionic acid | 4.84 mmol, 1.6 g | BrC=1C=C(C=CC1)C(C(=O)O)CC1=CC=C(C=C1)C#N | C16H12BrNO2
reactant | 4-[(2-(S)-amino-2-cyclohexyl-acetylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester acetic acid salt | 4.84 mmol, 2.0 g | C(C)(=O)O.C(C)(C)(C)OC(=O)N1CCC(CC1)CNC([C@H](C1CCCCC1)N)=O
reactant | N-ethylmorpholine | 9.68 mmol, 1.2 ml | C(C)N1CCOCC1 | C6H13NO
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 4-({2-[2-(3-Bromo-phenyl)-3-(4-cyano-phenyl)-propionylamino]-2-(S)-cyclohexyl-acetylamino}-methyl)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC([C@H](C1CCCCC1)NC(C(CC1=CC=C(C=C1)C#N)C1=CC(=CC=C1)Br)=O)=O | C35H45BrN4O4
